US05135838
Synthesis of 2-phenyl-6-nitrobenzyl bromide
The procedure of Example 8 was employed, except that the starting material was 2 g of 2-phenyl-6-nitrotoluene which was reacted with 1.5 g of bromine and 0.110 g of benzoyl peroxide. In this way, 2 g (77% yield) of yellowish crystals were recovered.

reactant | 2-phenyl-6-nitrotoluene | 2 g | C1(=CC=CC=C1)C1=C(C(=CC=C1)[N+](=O)[O-])C | C13H11NO2
reactant | bromine | 1.5 g | BrBr | Br2
catalyst | benzoyl peroxide | 0.110 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-phenyl-6-nitrobenzyl bromide | 2 g, 77% yield | C1(=CC=CC=C1)C1=C(CBr)C(=CC=C1)[N+](=O)[O-] | C13H10BrNO2
